// characterization single-ended opamp 'op8' in GPDK180 1V8

simulator lang=spectre
global 0

include "nmos1.scs" section=stat
include "pmos1.scs" section=stat

parameters vs=500m vi=0 vsup=1.8 vcm=0 vid=0 vicm=0 vo=0                     \
           a0=1 fin=1k cl=5p rl=100M i0=3u                                   \
           Ld1=5.15 Lcm1=6.0 Lcm2=1.0 Lcm3=1.0 Lcm4=5.0  Lcm5=1.95           \
           Wd1=3    Wcm1=5.0 Wcm2=1.8 Wcm3=6.0 Wcm4=14.0 Wcm5=2.55           \
           Md1=2    Mcm1=3   Mcm2=3   Mcm3=3   Mcm41=1   Mcm51=1             \
                                               Mcm42=4   Mcm52=1             \
                                               Mcm43=4   Mcm53=2             \
           A=Wcm5*Lcm5*(Mcm51+Mcm52+Mcm53) + Wcm4*Lcm4*(Mcm41+Mcm42+Mcm43) + \
             Wcm3*Lcm3*2*Mcm3 + Wcm2*Lcm2*2*Mcm2 + Wcm1*Lcm1*2*Mcm1

subckt ideal_balun d c p n
    K0 (d 0 p c) transformer n1=2
    K1 (d 0 c n) transformer n1=2
ends ideal_balun

// Biasing
VSUPP (VDD CM)  vsource dc=vsup/2 type=dc
VSUPN (CM  VSS) vsource dc=vsup/2 type=dc
IREF  (VDD B)   isource dc=i0     type=dc
VCM   (CM  0)   vsource dc=0      type=dc

//DUT
DUT (B INP INN OUT VDD VSS) op

OUTIDEAL (OUT_IDEAL 0  INP 0) vcvs gain=1/a0

INPSW (INP ICLPULSE ICLSIN INPOL) switch position=1
INNSW (INN FBB             INNOL) switch position=1
OUTSW (OF  OFL  OUT)              switch position=1

IPRB0 (FBA FBB) iprobe
FBNET (FBA CM  OUT CM) vcvs gain=a0

VIPULSE (ICLPULSE CM) vsource type=pulse dc=vid \
 val0=-vs/2 val1=vs/2 period=100u delay=5u rise=1n
VISIN   (ICLSIN   CM) vsource type=sine  ampl=a0 freq=fin
 
CL (OUT CM) capacitor c=cl
RL (OUT CM) resistor  r=rl

VO (OFI CM) vsource dc=vo type=dc
L2 (OFI OF) dcfeed l=1u
R2 (OFL  CM) resistor r=1M

BALUN (IND INCM INPOL INNOL) ideal_balun

VID  (IND  CM) vsource type=dc dc=vid mag=1
VICM (INCM CM) vsource type=dc dc=vicm

subckt op B INP INN O VDD VSS
    // Differential Pair
    MND12  (W  INP CM  VSS) nmos1 m=Md1 w=Wd1 l=Ld1
    MND11  (V  INN CM  VSS) nmos1 m=Md1 w=Wd1 l=Ld1

    // Biasing
    MNCM51 (B  B   VSS VSS) nmos1 m=Mcm51 w=Wcm5 l=Lcm5
    MNCM52 (U  B   VSS VSS) nmos1 m=Mcm52 w=Wcm5 l=Lcm5
    MNCM53 (CM B   VSS VSS) nmos1 m=Mcm53 w=Wcm5 l=Lcm5

    // PMOS Current Mirror
    MPCM41 (U  U   VDD VDD) pmos1 m=Mcm41 w=Wcm4 l=Lcm4
    MPCM43 (V  U   VDD VDD) pmos1 m=Mcm43 w=Wcm4 l=Lcm4
    MPCM42 (W  U   VDD VDD) pmos1 m=Mcm42 w=Wcm4 l=Lcm4

    // Cascode
    MNCM11 (Y  Y   VSS VSS) nmos1 m=Mcm1 w=Wcm1 l=Lcm1 
    MNCM12 (Z  Y   VSS VSS) nmos1 m=Mcm1 w=Wcm1 l=Lcm1 

    MNCM21 (X  X   Y   VSS) nmos1 m=Mcm2 w=Wcm2 l=Lcm2
    MNCM22 (O  X   Z   VSS) nmos1 m=Mcm2 w=Wcm2 l=Lcm2

    MPCM31 (X  X   W   VDD) pmos1 m=Mcm3 w=Wcm3 l=Lcm3
    MPCM32 (O  X   V   VDD) pmos1 m=Mcm3 w=Wcm3 l=Lcm3
ends op

simulatorOptions options reltol=100e-6 vabstol=1e-6 iabstol=1e-12 \
                         temp=27 tnom=27 homotopy=all gmin=1e-12 rforce=1 \
                         save=selected dc_pivot_check=yes scale=1u

save DUT.M*:gm  DUT.M*:gds   DUT.M*:id  DUT.M*:gmoverid     \
     DUT.M*:fug DUT.M*:vdsat DUT.M*:vgs DUT.M*:vds          \
     DUT.M*:vbs DUT.M*:gmb   DUT.M*:vth DUT.M*:self_gain    \
     DUT.X DUT.Y DUT.B DUT.CM DUT.U DUT.V DUT.W DUT.Z       \
     DUT:VDD DUT:VSS DUT:O VDD VSS OUT OUT_IDEAL INN INP    \

fb1 alter dev=INPSW param=position value=1
fb2 alter dev=INNSW param=position value=1
fb3 alter dev=OUTSW param=position value=1
fb4 alter param=vid value=0
fb5 alter param=vo value=0
fb6 alter param=a0 value=1

dcop dc save=selected title="dcop"

dcmatch (OUT CM) dcmatch mth=1e-150 method=statistics nsigma=1 \
    variations=mismatch where=rawfile prevoppoint=yes title="dcmatch"

stb stb start=1 stop=100G probe=IPRB0 localgnd=0 dec=50 title="stb"
tran tran stop=100u errpreset=conservative title="tran"

noise (OUT CM) noise start=1e-3 stop=1G iprobe=VIPULSE \
    separatenoise=no save=selected title="noise"

fb7 alter param=a0 value=0.1
dc1 dc param=vid start=-vsup*0.1 stop=vsup*0.1 lin=500 title="dc1"

ol1 alter dev=INNSW param=position value=2
ol2 alter dev=INPSW param=position value=3
ol3 alter dev=OUTSW param=position value=2

xf (OUT CM) xf  start=1e-3 stop=1G dec=50 title="xf" annotate=no
ac ac freq=1 param=vicm start=-vsup stop=vsup lin=1500 title="ac" annotate=no

ol41 alter param=vid value=vs/2 
ol42 alter param=vo value=-vsup/2
dc3 dc title="dc3"

ol51 alter param=vid value=-vs/2
ol52 alter param=vo value=vsup/2
dc4 dc title="dc4"
